* /Users/amritha/gan-driver/ltspice/BUCK_converter.asc
* Generated by LTspice 26.0.2 for MacOS.
Vin N001 0 {VIN}
Rloop N001 N002 0.3
Lloop N002 bus {LLOOP}
X§Xhs bus N003 sw EGAN ;§pnba d)g)s
X§Xls sw N004 0 EGAN ;§pnba d)g)s
Lo sw out {LOUT}
Co out 0 {COUT}
Rload out 0 {RLOAD}
X§Xdrvhs hspu hspd hsclkl N003 hsvp hsvn sw SEGDRV npu={NPU_HS} npd={NPD_HS} runit={RUNIT} rclamp=0.5 ;§pnba pu)pd)clk)out)vp)vn)ref
X§Xdrvls lspu lspd lsclk N004 lsvp lsvn 0 SEGDRV npu={NPU_LS} npd={NPD_LS} runit={RUNIT} rclamp=0.5 ;§pnba pu)pd)clk)out)vp)vn)ref
* GaN synchronous buck converter -- 100 V DC in, 48.6 V DC out at 4.88 A
* supply and power-loop parasitics
* HIGH SIDE  (control switch)
* LOW SIDE  (synchronous rectifier)
* output filter
* load
* segmented gate driver
* segmented gate driver
.include egan.lib
.include segdrv.lib
.param VIN=100 D=0.5 FSW=500k
.param LOUT=22u COUT=4.7u RLOAD=10
.param VDRV=5 VNEG=-2 CLKEN=1
.param NPU_LS=8 NPD_LS=8 NPU_HS=8 NPD_HS=8 RUNIT=8
.param DT=15n TJ=25 LLOOP=3n
.param KT={1+0.009*(TJ-25)} BH_T={5.55/KT} VTH_T={1.4-0.0015*(TJ-25)}
.param TSW={1/FSW} TON={D*TSW-DT} TLS={(1-D)*TSW-2*DT} TLSD={D*TSW+DT} TR=0.5n
.param VO={D*VIN} IO={VO/RLOAD}
Vpwmhs pwmhs 0 PULSE(0 1 0 {TR} {TR} {TON} {TSW})
Vpwmls pwmls 0 PULSE(0 1 {TLSD} {TR} {TR} {TLS} {TSW})
Vlsvp lsvp 0 DC {VDRV}
Vlsvn lsvn 0 DC {VNEG}
Blspu lspu 0 V={v(pwmls)}
Blspd lspd 0 V={1-v(pwmls)}
Blsclk lsclk 0 V={CLKEN*(1-v(pwmls))}
Vhsvp hsvp sw DC {VDRV}
Vhsvn hsvn sw DC {VNEG}
Bhspu hspu sw V={v(pwmhs)}
Bhspd hspd sw V={1-v(pwmhs)}
Bhsclk hsclkl sw V={CLKEN*(1-v(pwmhs))}
.ic V(out)=0 I(Lo)=0
.options reltol=1e-3 abstol=1e-10 vntol=1e-6 chgtol=1e-15 gmin=1e-12
.tran 0.2n 300u 0 2n uic
.meas TRAN vout AVG V(out) FROM 280u TO 300u
.meas TRAN iout AVG I(Rload) FROM 280u TO 300u
* Press Run, then View > SPICE Error Log for the measured output.
.backanno
.end
