* /Users/amritha/gan-driver/ltspice/B_design_clamp_on.asc
* Generated by LTspice 26.0.2 for MacOS.
Vbus bus 0 {VBUS}
Rloop bus N001 0.3
Lloop N001 hstop {LLOOP}
X§Xhs hsd hsg sw EGAN vth={VTH_T} bh={BH_T} ;§pnba d)g)s
X§Xdrvhs hspu hspd hsclkl hsg hsvp hsvn sw SEGDRV npu=8 npd=8 runit={RUNIT} rclamp=0.5 ;§pnba pu)pd)clk)out)vp)vn)ref
Vhsvp hsvp sw {VDRV}
Vhsvn hsvn sw {VNEG}
X§Xls lsd lsg 0 EGAN vth={VTH_T} bh={BH_T} ;§pnba d)g)s
X§Xdrvls lspu lspd lsclk lsg lsvp lsvn 0 SEGDRV npu=8 npd=8 runit={RUNIT} rclamp=0.5 ;§pnba pu)pd)clk)out)vp)vn)ref
Vlsvp lsvp 0 {VDRV}
Vlsvn lsvn 0 {VNEG}
Lload out sw {LLOAD} IC={ILOAD}
Vout out 0 {VOUT}
* B  --  active Miller clamp on, 0 V off-bias.
* Expect vspur = +0.830 V: safe, margin +0.570 V.
* hstop
* load: 100 uH into VBUS/2
.include egan.lib
.include segdrv.lib
.param VBUS=100 ILOAD=10 VDRV=5 VNEG=0
.param CLKEN=1   ; 1 = active Miller clamp enabled
.param DT=15n CLKDEL=4n RUNIT=8 TJ=25
.param LLOOP=3n LLOAD=100u TR=0.1n
.param KT={1+0.009*(TJ-25)} BH_T={5.55/KT} VTH_T={1.4-0.0015*(TJ-25)}
.param VOUT={VBUS/2}
.param T1=1u T2={T1+DT} T3=2u T4={T3+DT}
Vshs hstop hsd DC 0
Vsls sw lsd DC 0
Vpwmls pwmls 0 PWL(0 1 {T1} 1 {T1+TR} 0 {T4} 0 {T4+TR} 1)
Vpwmhs pwmhs 0 PWL(0 0 {T2} 0 {T2+TR} 1 {T3} 1 {T3+TR} 0)
Vclkls lsclk 0 PWL(0 0 {T1+CLKDEL} 0 {T1+CLKDEL+TR} {CLKEN} {T4} {CLKEN} {T4+TR} 0)
Vclkhs clkhs 0 PWL(0 {CLKEN} {T2} {CLKEN} {T2+TR} 0 {T3+CLKDEL} 0 {T3+CLKDEL+TR} {CLKEN})
Blspu lspu 0 V={v(pwmls)}
Blspd lspd 0 V={1-v(pwmls)}
Bhspu hspu sw V={v(pwmhs)}
Bhspd hspd sw V={1-v(pwmhs)}
Bhsclk hsclkl sw V={v(clkhs)}
.options reltol=1e-3 abstol=1e-10 vntol=1e-6 chgtol=1e-15 gmin=1e-12
.ic v(sw)=0 v(lsg)={VDRV} v(hsg)={VNEG} v(out)={VOUT}
.tran 0.02n 3u 0 0.02n uic
.meas TRAN vspur MAX V(hsg,sw) FROM 2.015u TO 2.1u
* Press Run, then View > SPICE Error Log for vspur. Probe V(hsg,sw): the gate of the device that is OFF.
.backanno
.end
